US09422267B2
To a solution of (S)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)azetidine-2-carboxylic acid (300 mg, 0.909 mmol) in DMF (3 mL) was added 6-fluoropyridin-3-amine (203 mg, 1.818 mmol), HATU (414 mg, 1.091 mmol) and DIPEA (0.26 mL, 1.45 mmol). The reaction mixture was allowed to stir at RT for 16 h. The reaction mixture was diluted with water (40 mL) and extracted with EtOAc (2×25 mL). The organic layer was washed with water (8×30 mL) and dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure gave a crude product that was purified by reverse phase HPLC to afford 40 mg of (S)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)azetidine-2-carboxamide as the formate salt. 1H NMR (400 MHz, CD3OD, TFA salt) δ (ppm): 0.40-0.60 (m, 2H), 0.70-0.85 (m, 2H), 1.58-1.70 (m, 1H), 2.20-2.37 (m, 2H), 2.58-2.69 (m, 1H), 2.79-2.97 (m, 3H), 2.98-3.06 (m, 2H), 4.21-4.38 (2H), 5.16 (dd, 1H), 6.16 (s, 1H), 7.05 (dd, 1H), 8.05-8.17 (m, 1H), 8.30 (s, 1H). The other enantiomer was prepared using the (R) chiral starting material.

reactant | (S)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)azetidine-2-carboxylic acid | 0.909 mmol, 300 mg | C1(CC1)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@@H](CC1)C(=O)O)CCC2 | C17H20N6O2
reactant | 6-fluoropyridin-3-amine | 1.818 mmol, 203 mg | FC1=CC=C(C=N1)N | C5H5FN2
reactant | HATU | 1.091 mmol, 414 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.45 mmol, 0.26 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | (S)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)azetidine-2-carboxamide | 40 mg | C1(CC1)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@@H](CC1)C(=O)NC=1C=NC(=CC1)F)CCC2 | C22H23FN8O
